US06914065B2
d) 3′-(7-Methylimidazo[1,2-c]pyrimidin-3-yl)biphenyl-2-carbonitrile
A stirred mixture of 3-bromo-7-methylimidazo[1,2-c]pyrimidine (0.1013 g, 0.478 mmol), dried potassium phosphate (0.2027 g, 0.955 mmol) and a 0.5 M solution of 3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-biphenyl-2-carbonitrile in N,N-dimethylacetamide (1.91 ml, 0.955 mmol) was degassed by evacuation and refilling with nitrogen three times. Tetrakis(triphenylphosphine)palladium(0) (28.7 mg, 0.0248 mmol) was then added and the mixture was degassed with two more evacuation-refilling cycles before heating at 80° C. under nitrogen for 45 h, adding more dried potassium phosphate (0.0503 g, 0.237 mmol), a 0.5 M solution of 3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile in N,N-dimethylacetamide (0.48 ml, 0.240 mmol) and tetrakis(triphenylphosphine)palladium(0) (8.0 mg, 0.0069 mmol) after 21 h with degassing. The mixture was diluted with ethyl acetate and filtered through glass fibre filter paper, washing solid with more ethyl acetate. The combined filtrates were washed with saturated aqueous NaCl (15 ml), and the aqueous layer was further extracted with ethyl acetate (2×25 ml). The combined organic extracts were dried (Na2SO4) and evaporated in vacuo. The residue was purified by flash chromatography (silica gel, EtOAc) to give 72.8 mg (49%) of the title compound as a yellow-brown solid: mp 119° C. (softens) (CH2Cl2-EtOAc-isohexane); 1H NMR (400 MHz, CDCl3) δ 2.57 (3H, s), 7.36 (1H, s), 7.51 (1H, td, J 7.6, 1.2 Hz), 7.57-7.72 (6H, m), 7.78 (1H, fine m), 7.82 (1H, dd, J 7.5, 1.4 Hz), 9.34 (1H, s); MS (ES+) m/z 311 [M+H]+; Anal. Found: C, 71.93; H, 4.68; N, 16.35%. Required for C20H14N4.1.4H2O: C, 71.58; H, 5.05; N, 16.70.

reactant | 3-bromo-7-methylimidazo[1,2-c]pyrimidine | 0.478 mmol, 0.1013 g | BrC1=CN=C2N1C=NC(=C2)C | C7H6BrN3
reactant | potassium phosphate | 0.955 mmol, 0.2027 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-biphenyl-2-carbonitrile | CC1(OB(OC1(C)C)C=1C=C(C=CC1)C=1C(=CC=CC1)C#N)C | C19H20BNO2
reactant | N,N-dimethylacetamide | 0.955 mmol, 1.91 ml | CN(C(C)=O)C | C4H9NO
reactant | potassium phosphate | 0.237 mmol, 0.0503 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | N,N-dimethylacetamide | 0.240 mmol, 0.48 ml | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.0248 mmol, 28.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0069 mmol, 8.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3′-(7-Methylimidazo[1,2-c]pyrimidin-3-yl)biphenyl-2-carbonitrile | 72.8 mg, 49% | CC1=CC=2N(C=N1)C(=CN2)C=2C=C(C=CC2)C=2C(=CC=CC2)C#N | C20H14N4
